US08802659B2
1-{6-[4-(1,1-Dimethylpropyl)cyclohexyloxy]quinazolin-2-ylmethyl}pyrrolidine-3-carboxylic acid
1-{6-[4-(1,1-Dimethyl-propyl)-cyclohexyloxy]-quinazolin-2-ylmethyl}-pyrrolidine-3-carboxylic acid methyl ester (229.50 mg, 5.2208E-4 mol) was dissolved in Methanol (5 mL, 0.1 mol) and Tetrahydrofuran (5 mL, 0.06 mol), followed by 2 M of Lithium hydroxide in Water (2 mL, 0.004 mol) at 23° C. for 10 minutes. Excess of solvents were removed under vacuum, and the solid residue was treated with HCl (2N, 3 mL), and extracted with DCM (20×3 mL). The organic layers were dried over Na2SO4. Removal of solvent gave a pure product (200 mg, 90%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.69-0.94 (m, 12H) 1.13-1.37 (m, 10H) 1.39-1.59 (m, 2H) 1.76-1.96 (m, 3H) 2.18-2.37 (m, 2H) 4.84 (br. s., 1H) 7.16-7.38 (m, 2H) 7.55-7.71 (m, 1H) 7.99 (br. s., 1H) MS (ESI, M+1): 426.30.

reactant | 1-{6-[4-(1,1-Dimethyl-propyl)-cyclohexyloxy]-quinazolin-2-ylmethyl}-pyrrolidine-3-carboxylic acid methyl ester | 5.2208E-4 mol, 229.50 mg | COC(=O)C1CN(CC1)CC1=NC2=CC=C(C=C2C=N1)OC1CCC(CC1)C(CC)(C)C | C26H37N3O3
reactant | Methanol | 0.1 mol, 5 mL | CO | CH4O
reactant | Tetrahydrofuran | 0.06 mol, 5 mL | O1CCCC1 | C4H8O
reactant | Lithium hydroxide | 2 M | [OH-].[Li+]
reactant | Water | 0.004 mol, 2 mL | O | H2O
product | 1-{6-[4-(1,1-Dimethylpropyl)cyclohexyloxy]quinazolin-2-ylmethyl}pyrrolidine-3-carboxylic acid | 200 mg, 90% | CC(CC)(C)C1CCC(CC1)OC=1C=C2C=NC(=NC2=CC1)CN1CC(CC1)C(=O)O | C25H35N3O3
